Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Diovan / spironolactone
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
Mr. ___ is a ___ y/o man with history of CAD s/p ___ 1
OM2 (___), ___ 1 pLAD (___), HTD, HLD who presents to 
the
ED with chest pain bilateral arm and shoulder pain for the past
day. 

Patient reports that he was carrying some heavy luggage the day
before his presentation and developed R shoulder pain. He
subsequently developed L shoulder pain. He took a dose ___
and his symptoms improved. Given variable presentation of chest
pain in the past, he decided to present for evaluation to the 
ED.
He does not have any associated dyspnea, palpitations, nausea,
diaphoresis. Also denies any substernal chest pain. He swims
4x/week and was able to swim for ~40 min, the day prior to
presentation. By the time he reached the ED, he reported
improvement in his symptoms. 

Of note, patient has been having intermittent chest, back,
shoulder pain over the last few months. He underwent a exercise
stress with nuclear imaging in ___ which was notable for a
peak estimated MET 7, no anginal type symptoms, 0.5-1 mm
upsloping ST segment depression noticed in the inferior leads 
and
V4-V6, as well as a 0.___levation in lead aVR, normal
myocardial perfusion, calculated LVEF 65%. He also had a Zio
Patch in ___ that showed occasional PVCs and rare PACs. No
significant tachycardia or bradycardia. Patient has been having
some peripheral edema and recently was placed on torsemide 40mg
daily, although attributes this to his amlodipine. 

In the ED,  

- Initial vitals: HR77 BP110/58 RR16 SpO2100  

- EKG: Normal sinus rhythm. Normal axis. No ST or TW changes.  

- Labs/studies notable for:  
      12.5
10.5 >----< 269
      37.4

133|92|36
---------< 153
4.6|24|1.2

Ca 9.8 Mg 2.3 P 4.3

INR 1.2 

Trop < 0.01 x 2

CXR - no acute cardiopulmonary process

- Patient was given:
+ Buspirone 10mg PO
+ Clopidogrel 75mg PO
+ Citalopram 10mg PO
+ Carvedilol 6.25mg PO

- Vitals on transfer:  
 
On the floor, patient continues to have some discomfort on the
right chest near the axilla as well as the right back. He denies
dyspnea, PND, orthopnea, syncope, pre-syncope. Notes that his
symptoms have improved from initial presentation. He denies
worsening peripheral edema, noting that he had some edema from
amlodipine at baseline. 

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Hypertension  
- Dyslipidemia  
2. CARDIAC HISTORY
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: DES to OM (___), DES 
to
pLAD (___)
- PACING/ICD: None  

3. OTHER PAST MEDICAL HISTORY  
- GERD
- Anxiety 
- Spinal stenosis
 
Social History:
___
Family History:
His father had an MI at age ___. 
 
Physical Exam:
ADMISSION EXAM:  
===============
VITALS: ___ 1539 Temp: 98.0 PO BP: 138/79 HR: 78 RR: 18 O2
sat: 96% 
GENERAL: Lying comfortably in bed. No visible distress. 
HEENT: PERRL, EOMI. Conjunctiva pink, no pallor or cyanosis of
the oral mucosa. 
NECK: Supple with no JVD. 
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. 
LUNGS: Resp were unlabored, no accessory muscle use. No 
crackles,
wheezes or rhonchi. Mild TTP in the right axilla. No TTP of the
right back.   
ABDOMEN: Soft, NTND. 
EXTREMITIES: Trace edema bilaterally. 2+ ___ pulses. 
SKIN: No stasis dermatitis, ulcers, scars.  

DISCHARGE EXAM:  
===============
Vitals 97.9 113/71 78 18 95% on RA
Weight 106kg --> 105kg
I/O 920/800//-/-
GENERAL: Lying comfortably in bed. No visible distress. 
HEENT: PERRL, EOMI. Conjunctiva pink, no pallor or cyanosis of
the oral mucosa. 
NECK: Supple with no JVD. 
CARDIAC: Distant heart sounds.  RRR, normal S1, S2. No
murmurs/rubs/gallops. 
LUNGS: Resp were unlabored, no accessory muscle use. No 
crackles,
wheezes or rhonchi. Mild TTP in the right axilla. No TTP of the
right back.   
ABDOMEN: Soft, NTND. 
EXTREMITIES: Trace edema bilaterally. 2+ ___ pulses. 
SKIN: No stasis dermatitis, ulcers, scars.  
 
Pertinent Results:
ADMISSION LABS:
===============

___ 05:50AM   WBC-10.5* RBC-4.26* HGB-12.5* HCT-37.4* 
MCV-88 MCH-29.3 MCHC-33.4 RDW-13.8 RDWSD-44.6
___ 05:50AM   NEUTS-73.2* LYMPHS-17.1* MONOS-8.3 EOS-0.7* 
BASOS-0.3 IM ___ AbsNeut-7.73* AbsLymp-1.80 AbsMono-0.87* 
AbsEos-0.07 AbsBaso-0.03
___ 05:50AM   ___ PTT-26.9 ___
___ 05:50AM   GLUCOSE-153* UREA N-36* CREAT-1.2 SODIUM-133* 
POTASSIUM-4.6 CHLORIDE-92* TOTAL CO2-24 ANION GAP-17
___ 05:50AM   CALCIUM-9.8 PHOSPHATE-4.3 MAGNESIUM-2.3
___ 05:50AM   proBNP-33
___:30PM   CK-MB-4 cTropnT-<0.01
___ 05:50AM   cTropnT-<0.01
___ 09:24AM   cTropnT-<0.01

STUDIES:
========
CXR (___): 
1. No acute cardiopulmonary process. 

Stress Echo (___):
Exercise conclusion: Average functional exercise capacity for 
age and gender. Ischemic ECG changes, with atypical chest pain, 
and no 2D echocardiographic evidence of inducible ischemia to 
achieved treadmill stress. No Doppler evidence for a change in 
left ventricular filling pressure with exercise. There is a 
normal blood pressure and a blunted heart rate (beta blocker) 
response to achieved treadmill stress. Mild mitral regurgitation 
at rest. Mild inducible left ventricular outflow tract gradient 
at peak stress. EF 71%
Suboptimal Study: Target heart rate not achieved.
Compared with the prior TTE (images reviewed) of ___ , 
there is now a left ventricular outflow tract gradient noted 
with exercise.

DISCHARGE LABS:
===============

___ 06:15AM BLOOD WBC-7.7 RBC-4.32* Hgb-12.8* Hct-38.7* 
MCV-90 MCH-29.6 MCHC-33.1 RDW-13.5 RDWSD-44.2 Plt ___
___ 06:15AM BLOOD ___ PTT-27.7 ___
___ 06:15AM BLOOD Glucose-117* UreaN-21* Creat-1.0 Na-139 
K-4.6 Cl-100 HCO3-26 AnGap-13
___ 06:15AM BLOOD Calcium-9.8 Phos-3.5 Mg-2.4
 
Brief Hospital Course:
Mr. ___ is a ___ y/o man with history of CAD s/p ___ 1 
OM2 (___), ___ 1 pLAD (___), HTD, HLD who presents to 
the ED with chest pain bilateral arm and shoulder pain for the 
past day although with atypical pain with exertion over the last 
few months that improves with nitroglycerin. Patient had 
negative troponins x 3 and no significant ECG changes. He 
underwent stress echo on ___ that demonstrated ischemic ECG 
changes but no 2D evidence of inducible ischemia. 

# CORONARIES: LAD s/p DES (___), OM s/p DES (___), RCA 
with
20% proximal and 40% distal at bifurcation PDA, PL. 
# PUMP: EF 68%
# RHYTHM: NSR

# Chest pain
# CAD s/p ___ 1 OM2 (___), ___ 1 pLAD (___)
Patient notes acute onset of bilateral chest pain after lifting 
bag of luggage. Had good exercise tolerance prior to this 
episodes and with negative pMIBI ___, however with some ECG 
changes on prior stress test. Given prior history, concerning 
for possible unstable angina. He underwent stress echo (___) 
that showed average function exercise capacity, ischemic ECG 
changes with atypical chest pain and no 2D echocardiogram 
evidence of inducible ischemia to the achieved treadmill stress. 
19mmHg inducible LVOT gradient at peak exercise. Decision was 
made not to pursue coronary angiography given no signs of 
inducible ischemia. Patient was discharged home with close 
outpatient cardiology follow-up ___. 

# HFpEF: Patient with lower extremity edema over the last couple 
months that he attributes to amlodipine. EF 68% at last pMIBI in 
___. Held torsemide in setting of possible cath/NPO. Will 
restart at discharge. He was continued on amlodipine and 
spironolactone. Benazepril was held and will be restarted at 
discharge. 

# Hypertension: Continued carvedilol, amlodipine. Held 
benazepril for possible cath/NPO. 

# HLD: Continued atoravastatin

# GERD: Continued pantoprazole

# Anxiety: Continued buspirone, citalopram

# Spinal stenosis: Continued baclofen PRN, methocarbamol PRN

# Asthma: Continue fluticasone

Transitional Issues
===================
[] follow up with Dr. ___ on ___
[] Continue Aspirin and Plavix
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Baclofen 10 mg PO BID:PRN Muscle Spasms 
4. benazepril 40 mg oral DAILY 
5. BusPIRone 10 mg PO BID 
6. Carvedilol 6.25 mg PO BID 
7. Citalopram 10 mg PO DAILY 
8. Clopidogrel 75 mg PO DAILY 
9. Pantoprazole 40 mg PO Q24H 
10. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
11. Multivitamins 1 TAB PO DAILY 
12. Loratadine 10 mg PO DAILY 
13. Docusate Sodium 100 mg PO BID 
14. Eplerenone 25 mg PO DAILY 
15. amLODIPine 10 mg PO DAILY 
16. Fluticasone Propionate 110mcg 1 PUFF IH BID 
17. Glucosamine (glucosamine sulfate) 500 mg oral Sometimes 
18. Methocarbamol 500 mg PO TID:PRN muscle spasms 
19. Torsemide 40 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Baclofen 10 mg PO BID:PRN Muscle Spasms  
5.  benazepril 40 mg oral DAILY  
6.  BusPIRone 10 mg PO BID  
7.  Carvedilol 6.25 mg PO BID  
8.  Citalopram 10 mg PO DAILY  
9.  Clopidogrel 75 mg PO DAILY  
10.  Docusate Sodium 100 mg PO BID  
11.  Eplerenone 25 mg PO DAILY  
12.  Fluticasone Propionate 110mcg 1 PUFF IH BID  
13.  Glucosamine (glucosamine sulfate) 500 mg oral Sometimes  
14.  Loratadine 10 mg PO DAILY  
15.  Methocarbamol 500 mg PO TID:PRN muscle spasms  
16.  Multivitamins 1 TAB PO DAILY  
17.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
18.  Pantoprazole 40 mg PO Q24H  
19.  Torsemide 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
=================
Chest pain

Secondary Diagnoses
===================
Coronary artery disease
Hypertension
Hyperlipidemia
Heart failure with preserved ejection fraction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ because you were having chest pain 
that was concerning for a blockage in your heart arteries. 

You underwent a stress test that showed slight ECG changes but 
no serious signs of blocked blood flow to the heart. 

After you leave the hospital, it is critically important that 
you take all of your medications as prescribed. You should 
follow up with your cardiologist, Dr. ___, on ___ as 
previously scheduled. 

It was a privilege taking care of you and we wish you the best. 

Sincerely, 

Your ___ Cardiology Team
 
Followup Instructions:
___